* C:\Users\44736\Desktop\result\nodes_329.asc
R1 N300 N299 10
R2 N301 N300 10
C1 N302 N301 1u
R3 N302 N324 10
R4 N299 N323 10
R5 N324 N323 10
V1 N324 N323 SINE(0 2 1k)
L1 N324 N329 1m
R6 N324 N329 10
R7 N323 N329 10
R8 N303 N304 10
R9 N325 N324 10
V2 N325 N329 10
R10 N305 N306 10
R11 N306 N325 10
C2 N303 N302 1u
L2 N304 N305 1m
R12 N308 N307 10
R13 N309 N308 10
C3 N310 N309 1u
R14 N310 N326 10
R15 N307 N325 10
R16 N326 N325 10
V3 N326 N325 SINE(0 2 1k)
L3 N326 0 1m
R17 N326 0 10
R18 N325 0 10
R19 N311 N312 10
R20 N327 N326 10
V4 N327 0 10
R21 N313 N314 10
R22 N314 N327 10
C4 N311 N310 1u
L4 N312 N313 1m
R23 N316 N315 10
R24 N317 N316 10
C5 N318 N317 1u
R25 N318 N328 10
R26 N315 N327 10
R27 N328 N327 10
V5 N328 N327 SINE(0 2 1k)
L5 N328 N330 1m
R28 N328 N330 10
R29 N327 N330 10
R30 N319 N320 10
R31 N295 N328 10
V6 N295 N330 10
R32 N321 N322 10
R33 N322 N295 10
C6 N319 N318 1u
L6 N320 N321 1m
R34 N266 N263 10
R35 N267 N266 10
C7 N268 N267 1u
R36 N268 N290 10
R37 N263 N289 10
R38 N290 N289 10
V7 N290 N289 SINE(0 2 1k)
L7 N290 N296 1m
R39 N290 N296 10
R40 N289 N296 10
R41 N269 N270 10
R42 N291 N290 10
V8 N291 N296 10
R43 N271 N272 10
R44 N272 N291 10
C8 N269 N268 1u
L8 N270 N271 1m
R45 N274 N273 10
R46 N275 N274 10
C9 N276 N275 1u
R47 N276 N292 10
R48 N273 N291 10
R49 N292 N291 10
V9 N292 N291 SINE(0 2 1k)
L9 N292 N297 1m
R50 N292 N297 10
R51 N291 N297 10
R52 N277 N278 10
R53 N293 N292 10
V10 N293 N297 10
R54 N279 N280 10
R55 N280 N293 10
C10 N277 N276 1u
L10 N278 N279 1m
R56 N282 N281 10
R57 N283 N282 10
C11 N284 N283 1u
R58 N284 N294 10
R59 N281 N293 10
R60 N294 N293 10
V11 N294 N293 SINE(0 2 1k)
L11 N294 N298 1m
R61 N294 N298 10
R62 N293 N298 10
R63 N285 N286 10
R64 N295 N294 10
V12 N295 N298 10
R65 N287 N288 10
R66 N288 N295 10
C12 N285 N284 1u
L12 N286 N287 1m
R67 N234 N233 10
R68 N235 N234 10
C13 N236 N235 1u
R69 N236 N258 10
R70 N233 N257 10
R71 N258 N257 10
V13 N258 N257 SINE(0 2 1k)
L13 N258 N263 1m
R72 N258 N263 10
R73 N257 N263 10
R74 N237 N238 10
R75 N259 N258 10
V14 N259 N263 10
R76 N239 N240 10
R77 N240 N259 10
C14 N237 N236 1u
L14 N238 N239 1m
R78 N242 N241 10
R79 N243 N242 10
C15 N244 N243 1u
R80 N244 N260 10
R81 N241 N259 10
R82 N260 N259 10
V15 N260 N259 SINE(0 2 1k)
L15 N260 N264 1m
R83 N260 N264 10
R84 N259 N264 10
R85 N245 N246 10
R86 N261 N260 10
V16 N261 N264 10
R87 N247 N248 10
R88 N248 N261 10
C16 N245 N244 1u
L16 N246 N247 1m
R89 N250 N249 10
R90 N251 N250 10
C17 N252 N251 1u
R91 N252 N262 10
R92 N249 N261 10
R93 N262 N261 10
V17 N262 N261 SINE(0 2 1k)
L17 N262 N265 1m
R94 N262 N265 10
R95 N261 N265 10
R96 N253 N254 10
R97 N229 N262 10
V18 N229 N265 10
R98 N255 N256 10
R99 N256 N229 10
C18 N253 N252 1u
L18 N254 N255 1m
R100 N200 N191 10
R101 N201 N200 10
C19 N202 N201 1u
R102 N202 N224 10
R103 N191 N223 10
R104 N224 N223 10
V19 N224 N223 SINE(0 2 1k)
L19 N224 N230 1m
R105 N224 N230 10
R106 N223 N230 10
R107 N203 N204 10
R108 N225 N224 10
V20 N225 N230 10
R109 N205 N206 10
R110 N206 N225 10
C20 N203 N202 1u
L20 N204 N205 1m
R111 N208 N207 10
R112 N209 N208 10
C21 N210 N209 1u
R113 N210 N226 10
R114 N207 N225 10
R115 N226 N225 10
V21 N226 N225 SINE(0 2 1k)
L21 N226 N231 1m
R116 N226 N231 10
R117 N225 N231 10
R118 N211 N212 10
R119 N227 N226 10
V22 N227 N231 10
R120 N213 N214 10
R121 N214 N227 10
C22 N211 N210 1u
L22 N212 N213 1m
R122 N216 N215 10
R123 N217 N216 10
C23 N218 N217 1u
R124 N218 N228 10
R125 N215 N227 10
R126 N228 N227 10
V23 N228 N227 SINE(0 2 1k)
L23 N228 N232 1m
R127 N228 N232 10
R128 N227 N232 10
R129 N219 N220 10
R130 N229 N228 10
V24 N229 N232 10
R131 N221 N222 10
R132 N222 N229 10
C24 N219 N218 1u
L24 N220 N221 1m
R133 N168 N167 10
R134 N169 N168 10
C25 N170 N169 1u
R135 N170 N192 10
R136 N167 N191 10
R137 N192 N191 10
V25 N192 N191 SINE(0 2 1k)
L25 N192 N197 1m
R138 N192 N197 10
R139 N191 N197 10
R140 N171 N172 10
R141 N193 N192 10
V26 N193 N197 10
R142 N173 N174 10
R143 N174 N193 10
C26 N171 N170 1u
L26 N172 N173 1m
R144 N176 N175 10
R145 N177 N176 10
C27 N178 N177 1u
R146 N178 N194 10
R147 N175 N193 10
R148 N194 N193 10
V27 N194 N193 SINE(0 2 1k)
L27 N194 N198 1m
R149 N194 N198 10
R150 N193 N198 10
R151 N179 N180 10
R152 N195 N194 10
V28 N195 N198 10
R153 N181 N182 10
R154 N182 N195 10
C28 N179 N178 1u
L28 N180 N181 1m
R155 N184 N183 10
R156 N185 N184 10
C29 N186 N185 1u
R157 N186 N196 10
R158 N183 N195 10
R159 N196 N195 10
V29 N196 N195 SINE(0 2 1k)
L29 N196 N199 1m
R160 N196 N199 10
R161 N195 N199 10
R162 N187 N188 10
R163 N163 N196 10
V30 N163 N199 10
R164 N189 N190 10
R165 N190 N163 10
C30 N187 N186 1u
L30 N188 N189 1m
R166 N134 N131 10
R167 N135 N134 10
C31 N136 N135 1u
R168 N136 N158 10
R169 N131 N157 10
R170 N158 N157 10
V31 N158 N157 SINE(0 2 1k)
L31 N158 N164 1m
R171 N158 N164 10
R172 N157 N164 10
R173 N137 N138 10
R174 N159 N158 10
V32 N159 N164 10
R175 N139 N140 10
R176 N140 N159 10
C32 N137 N136 1u
L32 N138 N139 1m
R177 N142 N141 10
R178 N143 N142 10
C33 N144 N143 1u
R179 N144 N160 10
R180 N141 N159 10
R181 N160 N159 10
V33 N160 N159 SINE(0 2 1k)
L33 N160 N165 1m
R182 N160 N165 10
R183 N159 N165 10
R184 N145 N146 10
R185 N161 N160 10
V34 N161 N165 10
R186 N147 N148 10
R187 N148 N161 10
C34 N145 N144 1u
L34 N146 N147 1m
R188 N150 N149 10
R189 N151 N150 10
C35 N152 N151 1u
R190 N152 N162 10
R191 N149 N161 10
R192 N162 N161 10
V35 N162 N161 SINE(0 2 1k)
L35 N162 N166 1m
R193 N162 N166 10
R194 N161 N166 10
R195 N153 N154 10
R196 N163 N162 10
V36 N163 N166 10
R197 N155 N156 10
R198 N156 N163 10
C36 N153 N152 1u
L36 N154 N155 1m
R199 N102 N101 10
R200 N103 N102 10
C37 N104 N103 1u
R201 N104 N126 10
R202 N101 N125 10
R203 N126 N125 10
V37 N126 N125 SINE(0 2 1k)
L37 N126 N131 1m
R204 N126 N131 10
R205 N125 N131 10
R206 N105 N106 10
R207 N127 N126 10
V38 N127 N131 10
R208 N107 N108 10
R209 N108 N127 10
C38 N105 N104 1u
L38 N106 N107 1m
R210 N110 N109 10
R211 N111 N110 10
C39 N112 N111 1u
R212 N112 N128 10
R213 N109 N127 10
R214 N128 N127 10
V39 N128 N127 SINE(0 2 1k)
L39 N128 N132 1m
R215 N128 N132 10
R216 N127 N132 10
R217 N113 N114 10
R218 N129 N128 10
V40 N129 N132 10
R219 N115 N116 10
R220 N116 N129 10
C40 N113 N112 1u
L40 N114 N115 1m
R221 N118 N117 10
R222 N119 N118 10
C41 N120 N119 1u
R223 N120 N130 10
R224 N117 N129 10
R225 N130 N129 10
V41 N130 N129 SINE(0 2 1k)
L41 N130 N133 1m
R226 N130 N133 10
R227 N129 N133 10
R228 N121 N122 10
R229 N097 N130 10
V42 N097 N133 10
R230 N123 N124 10
R231 N124 N097 10
C42 N121 N120 1u
L42 N122 N123 1m
R232 N068 N059 10
R233 N069 N068 10
C43 N070 N069 1u
R234 N070 N092 10
R235 N059 N091 10
R236 N092 N091 10
V43 N092 N091 SINE(0 2 1k)
L43 N092 N098 1m
R237 N092 N098 10
R238 N091 N098 10
R239 N071 N072 10
R240 N093 N092 10
V44 N093 N098 10
R241 N073 N074 10
R242 N074 N093 10
C44 N071 N070 1u
L44 N072 N073 1m
R243 N076 N075 10
R244 N077 N076 10
C45 N078 N077 1u
R245 N078 N094 10
R246 N075 N093 10
R247 N094 N093 10
V45 N094 N093 SINE(0 2 1k)
L45 N094 N099 1m
R248 N094 N099 10
R249 N093 N099 10
R250 N079 N080 10
R251 N095 N094 10
V46 N095 N099 10
R252 N081 N082 10
R253 N082 N095 10
C46 N079 N078 1u
L46 N080 N081 1m
R254 N084 N083 10
R255 N085 N084 10
C47 N086 N085 1u
R256 N086 N096 10
R257 N083 N095 10
R258 N096 N095 10
V47 N096 N095 SINE(0 2 1k)
L47 N096 N100 1m
R259 N096 N100 10
R260 N095 N100 10
R261 N087 N088 10
R262 N097 N096 10
V48 N097 N100 10
R263 N089 N090 10
R264 N090 N097 10
C48 N087 N086 1u
L48 N088 N089 1m
R265 N036 N035 10
R266 N037 N036 10
C49 N038 N037 1u
R267 N038 N060 10
R268 N035 N059 10
R269 N060 N059 10
V49 N060 N059 SINE(0 2 1k)
L49 N060 N065 1m
R270 N060 N065 10
R271 N059 N065 10
R272 N039 N040 10
R273 N061 N060 10
V50 N061 N065 10
R274 N041 N042 10
R275 N042 N061 10
C50 N039 N038 1u
L50 N040 N041 1m
R276 N044 N043 10
R277 N045 N044 10
C51 N046 N045 1u
R278 N046 N062 10
R279 N043 N061 10
R280 N062 N061 10
V51 N062 N061 SINE(0 2 1k)
L51 N062 N066 1m
R281 N062 N066 10
R282 N061 N066 10
R283 N047 N048 10
R284 N063 N062 10
V52 N063 N066 10
R285 N049 N050 10
R286 N050 N063 10
C52 N047 N046 1u
L52 N048 N049 1m
R287 N052 N051 10
R288 N053 N052 10
C53 N054 N053 1u
R289 N054 N064 10
R290 N051 N063 10
R291 N064 N063 10
V53 N064 N063 SINE(0 2 1k)
L53 N064 N067 1m
R292 N064 N067 10
R293 N063 N067 10
R294 N055 N056 10
R295 N031 N064 10
V54 N031 N067 10
R296 N057 N058 10
R297 N058 N031 10
C54 N055 N054 1u
L54 N056 N057 1m
R298 N002 N001 10
R299 N003 N002 10
C55 N004 N003 1u
R300 N004 N026 10
R301 N001 N025 10
R302 N026 N025 10
V55 N026 N025 SINE(0 2 1k)
L55 N026 N032 1m
R303 N026 N032 10
R304 N025 N032 10
R305 N005 N006 10
R306 N027 N026 10
V56 N027 N032 10
R307 N007 N008 10
R308 N008 N027 10
C56 N005 N004 1u
L56 N006 N007 1m
R309 N010 N009 10
R310 N011 N010 10
C57 N012 N011 1u
R311 N012 N028 10
R312 N009 N027 10
R313 N028 N027 10
V57 N028 N027 SINE(0 2 1k)
L57 N028 N033 1m
R314 N028 N033 10
R315 N027 N033 10
R316 N013 N014 10
R317 N029 N028 10
V58 N029 N033 10
R318 N015 N016 10
R319 N016 N029 10
C58 N013 N012 1u
L58 N014 N015 1m
R320 N018 N017 10
R321 N019 N018 10
C59 N020 N019 1u
R322 N020 N030 10
R323 N017 N029 10
R324 N030 N029 10
V59 N030 N029 SINE(0 2 1k)
L59 N030 N034 1m
R325 N030 N034 10
R326 N029 N034 10
R327 N021 N022 10
R328 N031 N030 10
V60 N031 N034 10
R329 N023 N024 10
R330 N024 N031 10
C60 N021 N020 1u
L60 N022 N023 1m
.tran 0 20ms 0 0.01ms
.backanno
.end
