* C:\Users\44736\Desktop\result\nodes_460.asc
R1 N432 N431 10
R2 N433 N432 10
C1 N434 N433 1u
R3 N434 N456 10
R4 N431 N455 10
R5 N456 N455 10
V1 N456 N455 SINE(0 2 1k)
L1 N456 N461 1m
R6 N456 N461 10
R7 N455 N461 10
R8 N435 N436 10
R9 N457 N456 10
V2 N457 N461 10
R10 N437 N438 10
R11 N438 N457 10
C2 N435 N434 1u
L2 N436 N437 1m
R12 N440 N439 10
R13 N441 N440 10
C3 N442 N441 1u
R14 N442 N458 10
R15 N439 N457 10
R16 N458 N457 10
V3 N458 N457 SINE(0 2 1k)
L3 N458 0 1m
R17 N458 0 10
R18 N457 0 10
R19 N443 N444 10
R20 N459 N458 10
V4 N459 0 10
R21 N445 N446 10
R22 N446 N459 10
C4 N443 N442 1u
L4 N444 N445 1m
R23 N448 N447 10
R24 N449 N448 10
C5 N450 N449 1u
R25 N450 N460 10
R26 N447 N459 10
R27 N460 N459 10
V5 N460 N459 SINE(0 2 1k)
L5 N460 N462 1m
R28 N460 N462 10
R29 N459 N462 10
R30 N451 N452 10
R31 N427 N460 10
V6 N427 N462 10
R32 N453 N454 10
R33 N454 N427 10
C6 N451 N450 1u
L6 N452 N453 1m
R34 N398 N395 10
R35 N399 N398 10
C7 N400 N399 1u
R36 N400 N422 10
R37 N395 N421 10
R38 N422 N421 10
V7 N422 N421 SINE(0 2 1k)
L7 N422 N428 1m
R39 N422 N428 10
R40 N421 N428 10
R41 N401 N402 10
R42 N423 N422 10
V8 N423 N428 10
R43 N403 N404 10
R44 N404 N423 10
C8 N401 N400 1u
L8 N402 N403 1m
R45 N406 N405 10
R46 N407 N406 10
C9 N408 N407 1u
R47 N408 N424 10
R48 N405 N423 10
R49 N424 N423 10
V9 N424 N423 SINE(0 2 1k)
L9 N424 N429 1m
R50 N424 N429 10
R51 N423 N429 10
R52 N409 N410 10
R53 N425 N424 10
V10 N425 N429 10
R54 N411 N412 10
R55 N412 N425 10
C10 N409 N408 1u
L10 N410 N411 1m
R56 N414 N413 10
R57 N415 N414 10
C11 N416 N415 1u
R58 N416 N426 10
R59 N413 N425 10
R60 N426 N425 10
V11 N426 N425 SINE(0 2 1k)
L11 N426 N430 1m
R61 N426 N430 10
R62 N425 N430 10
R63 N417 N418 10
R64 N427 N426 10
V12 N427 N430 10
R65 N419 N420 10
R66 N420 N427 10
C12 N417 N416 1u
L12 N418 N419 1m
R67 N366 N365 10
R68 N367 N366 10
C13 N368 N367 1u
R69 N368 N390 10
R70 N365 N389 10
R71 N390 N389 10
V13 N390 N389 SINE(0 2 1k)
L13 N390 N395 1m
R72 N390 N395 10
R73 N389 N395 10
R74 N369 N370 10
R75 N391 N390 10
V14 N391 N395 10
R76 N371 N372 10
R77 N372 N391 10
C14 N369 N368 1u
L14 N370 N371 1m
R78 N374 N373 10
R79 N375 N374 10
C15 N376 N375 1u
R80 N376 N392 10
R81 N373 N391 10
R82 N392 N391 10
V15 N392 N391 SINE(0 2 1k)
L15 N392 N396 1m
R83 N392 N396 10
R84 N391 N396 10
R85 N377 N378 10
R86 N393 N392 10
V16 N393 N396 10
R87 N379 N380 10
R88 N380 N393 10
C16 N377 N376 1u
L16 N378 N379 1m
R89 N382 N381 10
R90 N383 N382 10
C17 N384 N383 1u
R91 N384 N394 10
R92 N381 N393 10
R93 N394 N393 10
V17 N394 N393 SINE(0 2 1k)
L17 N394 N397 1m
R94 N394 N397 10
R95 N393 N397 10
R96 N385 N386 10
R97 N361 N394 10
V18 N361 N397 10
R98 N387 N388 10
R99 N388 N361 10
C18 N385 N384 1u
L18 N386 N387 1m
R100 N332 N323 10
R101 N333 N332 10
C19 N334 N333 1u
R102 N334 N356 10
R103 N323 N355 10
R104 N356 N355 10
V19 N356 N355 SINE(0 2 1k)
L19 N356 N362 1m
R105 N356 N362 10
R106 N355 N362 10
R107 N335 N336 10
R108 N357 N356 10
V20 N357 N362 10
R109 N337 N338 10
R110 N338 N357 10
C20 N335 N334 1u
L20 N336 N337 1m
R111 N340 N339 10
R112 N341 N340 10
C21 N342 N341 1u
R113 N342 N358 10
R114 N339 N357 10
R115 N358 N357 10
V21 N358 N357 SINE(0 2 1k)
L21 N358 N363 1m
R116 N358 N363 10
R117 N357 N363 10
R118 N343 N344 10
R119 N359 N358 10
V22 N359 N363 10
R120 N345 N346 10
R121 N346 N359 10
C22 N343 N342 1u
L22 N344 N345 1m
R122 N348 N347 10
R123 N349 N348 10
C23 N350 N349 1u
R124 N350 N360 10
R125 N347 N359 10
R126 N360 N359 10
V23 N360 N359 SINE(0 2 1k)
L23 N360 N364 1m
R127 N360 N364 10
R128 N359 N364 10
R129 N351 N352 10
R130 N361 N360 10
V24 N361 N364 10
R131 N353 N354 10
R132 N354 N361 10
C24 N351 N350 1u
L24 N352 N353 1m
R133 N300 N299 10
R134 N301 N300 10
C25 N302 N301 1u
R135 N302 N324 10
R136 N299 N323 10
R137 N324 N323 10
V25 N324 N323 SINE(0 2 1k)
L25 N324 N329 1m
R138 N324 N329 10
R139 N323 N329 10
R140 N303 N304 10
R141 N325 N324 10
V26 N325 N329 10
R142 N305 N306 10
R143 N306 N325 10
C26 N303 N302 1u
L26 N304 N305 1m
R144 N308 N307 10
R145 N309 N308 10
C27 N310 N309 1u
R146 N310 N326 10
R147 N307 N325 10
R148 N326 N325 10
V27 N326 N325 SINE(0 2 1k)
L27 N326 N330 1m
R149 N326 N330 10
R150 N325 N330 10
R151 N311 N312 10
R152 N327 N326 10
V28 N327 N330 10
R153 N313 N314 10
R154 N314 N327 10
C28 N311 N310 1u
L28 N312 N313 1m
R155 N316 N315 10
R156 N317 N316 10
C29 N318 N317 1u
R157 N318 N328 10
R158 N315 N327 10
R159 N328 N327 10
V29 N328 N327 SINE(0 2 1k)
L29 N328 N331 1m
R160 N328 N331 10
R161 N327 N331 10
R162 N319 N320 10
R163 N295 N328 10
V30 N295 N331 10
R164 N321 N322 10
R165 N322 N295 10
C30 N319 N318 1u
L30 N320 N321 1m
R166 N266 N263 10
R167 N267 N266 10
C31 N268 N267 1u
R168 N268 N290 10
R169 N263 N289 10
R170 N290 N289 10
V31 N290 N289 SINE(0 2 1k)
L31 N290 N296 1m
R171 N290 N296 10
R172 N289 N296 10
R173 N269 N270 10
R174 N291 N290 10
V32 N291 N296 10
R175 N271 N272 10
R176 N272 N291 10
C32 N269 N268 1u
L32 N270 N271 1m
R177 N274 N273 10
R178 N275 N274 10
C33 N276 N275 1u
R179 N276 N292 10
R180 N273 N291 10
R181 N292 N291 10
V33 N292 N291 SINE(0 2 1k)
L33 N292 N297 1m
R182 N292 N297 10
R183 N291 N297 10
R184 N277 N278 10
R185 N293 N292 10
V34 N293 N297 10
R186 N279 N280 10
R187 N280 N293 10
C34 N277 N276 1u
L34 N278 N279 1m
R188 N282 N281 10
R189 N283 N282 10
C35 N284 N283 1u
R190 N284 N294 10
R191 N281 N293 10
R192 N294 N293 10
V35 N294 N293 SINE(0 2 1k)
L35 N294 N298 1m
R193 N294 N298 10
R194 N293 N298 10
R195 N285 N286 10
R196 N295 N294 10
V36 N295 N298 10
R197 N287 N288 10
R198 N288 N295 10
C36 N285 N284 1u
L36 N286 N287 1m
R199 N234 N233 10
R200 N235 N234 10
C37 N236 N235 1u
R201 N236 N258 10
R202 N233 N257 10
R203 N258 N257 10
V37 N258 N257 SINE(0 2 1k)
L37 N258 N263 1m
R204 N258 N263 10
R205 N257 N263 10
R206 N237 N238 10
R207 N259 N258 10
V38 N259 N263 10
R208 N239 N240 10
R209 N240 N259 10
C38 N237 N236 1u
L38 N238 N239 1m
R210 N242 N241 10
R211 N243 N242 10
C39 N244 N243 1u
R212 N244 N260 10
R213 N241 N259 10
R214 N260 N259 10
V39 N260 N259 SINE(0 2 1k)
L39 N260 N264 1m
R215 N260 N264 10
R216 N259 N264 10
R217 N245 N246 10
R218 N261 N260 10
V40 N261 N264 10
R219 N247 N248 10
R220 N248 N261 10
C40 N245 N244 1u
L40 N246 N247 1m
R221 N250 N249 10
R222 N251 N250 10
C41 N252 N251 1u
R223 N252 N262 10
R224 N249 N261 10
R225 N262 N261 10
V41 N262 N261 SINE(0 2 1k)
L41 N262 N265 1m
R226 N262 N265 10
R227 N261 N265 10
R228 N253 N254 10
R229 N229 N262 10
V42 N229 N265 10
R230 N255 N256 10
R231 N256 N229 10
C42 N253 N252 1u
L42 N254 N255 1m
R232 N200 N191 10
R233 N201 N200 10
C43 N202 N201 1u
R234 N202 N224 10
R235 N191 N223 10
R236 N224 N223 10
V43 N224 N223 SINE(0 2 1k)
L43 N224 N230 1m
R237 N224 N230 10
R238 N223 N230 10
R239 N203 N204 10
R240 N225 N224 10
V44 N225 N230 10
R241 N205 N206 10
R242 N206 N225 10
C44 N203 N202 1u
L44 N204 N205 1m
R243 N208 N207 10
R244 N209 N208 10
C45 N210 N209 1u
R245 N210 N226 10
R246 N207 N225 10
R247 N226 N225 10
V45 N226 N225 SINE(0 2 1k)
L45 N226 N231 1m
R248 N226 N231 10
R249 N225 N231 10
R250 N211 N212 10
R251 N227 N226 10
V46 N227 N231 10
R252 N213 N214 10
R253 N214 N227 10
C46 N211 N210 1u
L46 N212 N213 1m
R254 N216 N215 10
R255 N217 N216 10
C47 N218 N217 1u
R256 N218 N228 10
R257 N215 N227 10
R258 N228 N227 10
V47 N228 N227 SINE(0 2 1k)
L47 N228 N232 1m
R259 N228 N232 10
R260 N227 N232 10
R261 N219 N220 10
R262 N229 N228 10
V48 N229 N232 10
R263 N221 N222 10
R264 N222 N229 10
C48 N219 N218 1u
L48 N220 N221 1m
R265 N168 N167 10
R266 N169 N168 10
C49 N170 N169 1u
R267 N170 N192 10
R268 N167 N191 10
R269 N192 N191 10
V49 N192 N191 SINE(0 2 1k)
L49 N192 N197 1m
R270 N192 N197 10
R271 N191 N197 10
R272 N171 N172 10
R273 N193 N192 10
V50 N193 N197 10
R274 N173 N174 10
R275 N174 N193 10
C50 N171 N170 1u
L50 N172 N173 1m
R276 N176 N175 10
R277 N177 N176 10
C51 N178 N177 1u
R278 N178 N194 10
R279 N175 N193 10
R280 N194 N193 10
V51 N194 N193 SINE(0 2 1k)
L51 N194 N198 1m
R281 N194 N198 10
R282 N193 N198 10
R283 N179 N180 10
R284 N195 N194 10
V52 N195 N198 10
R285 N181 N182 10
R286 N182 N195 10
C52 N179 N178 1u
L52 N180 N181 1m
R287 N184 N183 10
R288 N185 N184 10
C53 N186 N185 1u
R289 N186 N196 10
R290 N183 N195 10
R291 N196 N195 10
V53 N196 N195 SINE(0 2 1k)
L53 N196 N199 1m
R292 N196 N199 10
R293 N195 N199 10
R294 N187 N188 10
R295 N163 N196 10
V54 N163 N199 10
R296 N189 N190 10
R297 N190 N163 10
C54 N187 N186 1u
L54 N188 N189 1m
R298 N134 N131 10
R299 N135 N134 10
C55 N136 N135 1u
R300 N136 N158 10
R301 N131 N157 10
R302 N158 N157 10
V55 N158 N157 SINE(0 2 1k)
L55 N158 N164 1m
R303 N158 N164 10
R304 N157 N164 10
R305 N137 N138 10
R306 N159 N158 10
V56 N159 N164 10
R307 N139 N140 10
R308 N140 N159 10
C56 N137 N136 1u
L56 N138 N139 1m
R309 N142 N141 10
R310 N143 N142 10
C57 N144 N143 1u
R311 N144 N160 10
R312 N141 N159 10
R313 N160 N159 10
V57 N160 N159 SINE(0 2 1k)
L57 N160 N165 1m
R314 N160 N165 10
R315 N159 N165 10
R316 N145 N146 10
R317 N161 N160 10
V58 N161 N165 10
R318 N147 N148 10
R319 N148 N161 10
C58 N145 N144 1u
L58 N146 N147 1m
R320 N150 N149 10
R321 N151 N150 10
C59 N152 N151 1u
R322 N152 N162 10
R323 N149 N161 10
R324 N162 N161 10
V59 N162 N161 SINE(0 2 1k)
L59 N162 N166 1m
R325 N162 N166 10
R326 N161 N166 10
R327 N153 N154 10
R328 N163 N162 10
V60 N163 N166 10
R329 N155 N156 10
R330 N156 N163 10
C60 N153 N152 1u
L60 N154 N155 1m
R331 N102 N101 10
R332 N103 N102 10
C61 N104 N103 1u
R333 N104 N126 10
R334 N101 N125 10
R335 N126 N125 10
V61 N126 N125 SINE(0 2 1k)
L61 N126 N131 1m
R336 N126 N131 10
R337 N125 N131 10
R338 N105 N106 10
R339 N127 N126 10
V62 N127 N131 10
R340 N107 N108 10
R341 N108 N127 10
C62 N105 N104 1u
L62 N106 N107 1m
R342 N110 N109 10
R343 N111 N110 10
C63 N112 N111 1u
R344 N112 N128 10
R345 N109 N127 10
R346 N128 N127 10
V63 N128 N127 SINE(0 2 1k)
L63 N128 N132 1m
R347 N128 N132 10
R348 N127 N132 10
R349 N113 N114 10
R350 N129 N128 10
V64 N129 N132 10
R351 N115 N116 10
R352 N116 N129 10
C64 N113 N112 1u
L64 N114 N115 1m
R353 N118 N117 10
R354 N119 N118 10
C65 N120 N119 1u
R355 N120 N130 10
R356 N117 N129 10
R357 N130 N129 10
V65 N130 N129 SINE(0 2 1k)
L65 N130 N133 1m
R358 N130 N133 10
R359 N129 N133 10
R360 N121 N122 10
R361 N097 N130 10
V66 N097 N133 10
R362 N123 N124 10
R363 N124 N097 10
C66 N121 N120 1u
L66 N122 N123 1m
R364 N068 N059 10
R365 N069 N068 10
C67 N070 N069 1u
R366 N070 N092 10
R367 N059 N091 10
R368 N092 N091 10
V67 N092 N091 SINE(0 2 1k)
L67 N092 N098 1m
R369 N092 N098 10
R370 N091 N098 10
R371 N071 N072 10
R372 N093 N092 10
V68 N093 N098 10
R373 N073 N074 10
R374 N074 N093 10
C68 N071 N070 1u
L68 N072 N073 1m
R375 N076 N075 10
R376 N077 N076 10
C69 N078 N077 1u
R377 N078 N094 10
R378 N075 N093 10
R379 N094 N093 10
V69 N094 N093 SINE(0 2 1k)
L69 N094 N099 1m
R380 N094 N099 10
R381 N093 N099 10
R382 N079 N080 10
R383 N095 N094 10
V70 N095 N099 10
R384 N081 N082 10
R385 N082 N095 10
C70 N079 N078 1u
L70 N080 N081 1m
R386 N084 N083 10
R387 N085 N084 10
C71 N086 N085 1u
R388 N086 N096 10
R389 N083 N095 10
R390 N096 N095 10
V71 N096 N095 SINE(0 2 1k)
L71 N096 N100 1m
R391 N096 N100 10
R392 N095 N100 10
R393 N087 N088 10
R394 N097 N096 10
V72 N097 N100 10
R395 N089 N090 10
R396 N090 N097 10
C72 N087 N086 1u
L72 N088 N089 1m
R397 N036 N035 10
R398 N037 N036 10
C73 N038 N037 1u
R399 N038 N060 10
R400 N035 N059 10
R401 N060 N059 10
V73 N060 N059 SINE(0 2 1k)
L73 N060 N065 1m
R402 N060 N065 10
R403 N059 N065 10
R404 N039 N040 10
R405 N061 N060 10
V74 N061 N065 10
R406 N041 N042 10
R407 N042 N061 10
C74 N039 N038 1u
L74 N040 N041 1m
R408 N044 N043 10
R409 N045 N044 10
C75 N046 N045 1u
R410 N046 N062 10
R411 N043 N061 10
R412 N062 N061 10
V75 N062 N061 SINE(0 2 1k)
L75 N062 N066 1m
R413 N062 N066 10
R414 N061 N066 10
R415 N047 N048 10
R416 N063 N062 10
V76 N063 N066 10
R417 N049 N050 10
R418 N050 N063 10
C76 N047 N046 1u
L76 N048 N049 1m
R419 N052 N051 10
R420 N053 N052 10
C77 N054 N053 1u
R421 N054 N064 10
R422 N051 N063 10
R423 N064 N063 10
V77 N064 N063 SINE(0 2 1k)
L77 N064 N067 1m
R424 N064 N067 10
R425 N063 N067 10
R426 N055 N056 10
R427 N031 N064 10
V78 N031 N067 10
R428 N057 N058 10
R429 N058 N031 10
C78 N055 N054 1u
L78 N056 N057 1m
R430 N002 N001 10
R431 N003 N002 10
C79 N004 N003 1u
R432 N004 N026 10
R433 N001 N025 10
R434 N026 N025 10
V79 N026 N025 SINE(0 2 1k)
L79 N026 N032 1m
R435 N026 N032 10
R436 N025 N032 10
R437 N005 N006 10
R438 N027 N026 10
V80 N027 N032 10
R439 N007 N008 10
R440 N008 N027 10
C80 N005 N004 1u
L80 N006 N007 1m
R441 N010 N009 10
R442 N011 N010 10
C81 N012 N011 1u
R443 N012 N028 10
R444 N009 N027 10
R445 N028 N027 10
V81 N028 N027 SINE(0 2 1k)
L81 N028 N033 1m
R446 N028 N033 10
R447 N027 N033 10
R448 N013 N014 10
R449 N029 N028 10
V82 N029 N033 10
R450 N015 N016 10
R451 N016 N029 10
C82 N013 N012 1u
L82 N014 N015 1m
R452 N018 N017 10
R453 N019 N018 10
C83 N020 N019 1u
R454 N020 N030 10
R455 N017 N029 10
R456 N030 N029 10
V83 N030 N029 SINE(0 2 1k)
L83 N030 N034 1m
R457 N030 N034 10
R458 N029 N034 10
R459 N021 N022 10
R460 N031 N030 10
V84 N031 N034 10
R461 N023 N024 10
R462 N024 N031 10
C84 N021 N020 1u
L84 N022 N023 1m
.tran 0 20ms 0 0.01ms
.backanno
.end
